US04169720
Methyl 2-[4-(2,4-dichlorophenoxy-methyl)-phenoxy]-propionate by method B
2.3 gm of sodium were dissolved in 100 ml of absolute ethanol, 26.9 gm of 4-(2,4-dichlorophenoxy-methyl)-phenol and 16.7 gm of methyl 2-bromo-propionate were added to the solution, and the mixture was boiled for 3 hours. Thereafter, the reaction solution was evaporated, and the residue was worked up as usual with water and chloroform, yielding 80% of theory of the desired compound named in the heading, which had a melting point of 64° C.

reactant | sodium | 2.3 gm | [Na] | Na
reactant | 4-(2,4-dichlorophenoxy-methyl)-phenol | 26.9 gm | ClC1=C(OCC2=CC=C(C=C2)O)C=CC(=C1)Cl | C13H10Cl2O2
reactant | methyl 2-bromo-propionate | 16.7 gm | BrC(C(=O)OC)C | C4H7BrO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Methyl 2-[4-(2,4-dichlorophenoxy-methyl)-phenoxy]-propionate | ClC1=C(OCC2=CC=C(OC(C(=O)OC)C)C=C2)C=CC(=C1)Cl | C17H16Cl2O4
